*** Extracted spice netlist generated from MAX ***

.SUBCKT MMI_INVB in out
C_1 vdd gnd 1.27814fF
C_2 in gnd 0.71213fF
C_3 out gnd 0.991645fF
C_4 gnd gnd 1.19975fF
Mp_1 vdd in out vdd p W=1.84U L=0.18U AD=0.8832P PD=4.64U AS=0.8832P 
+ PS=4.64U
Mn_1 gnd in out gnd n W=0.92U L=0.18U AD=0.4416P PD=2.8U AS=0.4416P PS=2.8U
.ENDS	$ MMI_INVB

.GLOBAL gnd vdd

