*** Extracted spice netlist generated from MAX ***

.SUBCKT MMI_OAI31B in0 in1 in2 in3 out
C_1 out gnd 2.51892fF
C_2 in0 gnd 0.948395fF
C_3 vdd gnd 3.15482fF
C_4 in3 gnd 2.92673fF
C_5 in2 gnd 2.91241fF
C_6 in1 gnd 2.69723fF
C_7 net_9 gnd 1.72161fF
C_8 gnd gnd 2.90516fF
Mp_1 out in0 vdd vdd p W=1.54U L=0.15U AD=0.406175P PD=2.5625U AS=0.419169P 
+ PS=2.98U
Mp_2 vdd in3 net_1 vdd p W=1.155U L=0.15U AD=0.314377P PD=2.235U AS=0.1848P 
+ PS=1.475U
Mp_3 net_1 in2 net_2 vdd p W=1.155U L=0.15U AD=0.1848P PD=1.475U AS=0.1848P 
+ PS=1.475U
Mp_4 net_2 in1 out vdd p W=1.155U L=0.15U AD=0.1848P PD=1.475U AS=0.304631P 
+ PS=1.92187U
Mp_5 out in1 net_3 vdd p W=1.155U L=0.15U AD=0.304631P PD=1.92187U 
+ AS=0.1848P PS=1.475U
Mp_6 net_3 in2 net_4 vdd p W=1.155U L=0.15U AD=0.1848P PD=1.475U AS=0.1848P 
+ PS=1.475U
Mp_7 net_4 in3 vdd vdd p W=1.155U L=0.15U AD=0.1848P PD=1.475U AS=0.314377P 
+ PS=2.235U
Mp_8 vdd in3 net_5 vdd p W=1.155U L=0.15U AD=0.314377P PD=2.235U AS=0.1848P 
+ PS=1.475U
Mp_9 net_5 in2 net_6 vdd p W=1.155U L=0.15U AD=0.1848P PD=1.475U AS=0.1848P 
+ PS=1.475U
Mp_10 net_6 in1 out vdd p W=1.155U L=0.15U AD=0.1848P PD=1.475U 
+ AS=0.304631P PS=1.92187U
Mp_11 out in1 net_7 vdd p W=1.155U L=0.15U AD=0.304631P PD=1.92187U 
+ AS=0.1848P PS=1.475U
Mp_12 net_7 in2 net_8 vdd p W=1.155U L=0.15U AD=0.1848P PD=1.475U 
+ AS=0.1848P PS=1.475U
Mp_13 net_8 in3 vdd vdd p W=1.155U L=0.15U AD=0.1848P PD=1.475U 
+ AS=0.314377P PS=2.235U
Mn_1 net_9 in0 out gnd n W=0.77U L=0.15U AD=0.203088P PD=1.49U AS=0.1694P 
+ PS=1.21U
Mn_2 out in0 net_9 gnd n W=0.77U L=0.15U AD=0.1694P PD=1.21U AS=0.203088P 
+ PS=1.49U
Mn_3 net_9 in1 gnd gnd n W=0.77U L=0.15U AD=0.203088P PD=1.49U AS=0.171325P 
+ PS=1.215U
Mn_4 gnd in1 net_9 gnd n W=0.77U L=0.15U AD=0.171325P PD=1.215U 
+ AS=0.203088P PS=1.49U
Mn_5 net_9 in2 gnd gnd n W=0.77U L=0.15U AD=0.203088P PD=1.49U AS=0.171325P 
+ PS=1.215U
Mn_6 gnd in2 net_9 gnd n W=0.77U L=0.15U AD=0.171325P PD=1.215U 
+ AS=0.203088P PS=1.49U
Mn_7 net_9 in3 gnd gnd n W=0.77U L=0.15U AD=0.203088P PD=1.49U AS=0.171325P 
+ PS=1.215U
Mn_8 gnd in3 net_9 gnd n W=0.77U L=0.15U AD=0.171325P PD=1.215U 
+ AS=0.203088P PS=1.49U
.ENDS	$ MMI_OAI31B

.GLOBAL gnd vdd

